US07598377B2
2′-hydroxy-5′-methyl-3′-methoxymethylacetophenone
A mixture of 2′-hydroxy-5′-methylacetophenone (1.0 g, 6.7 mmol) was treated with paraformaldehyde (0.18 g) and conc. hydrochloric acid (5 ml) and the mixture heated at 60° C. overnight. Upon cooling the mixture was extracted with toluene (3×30 ml) and the combined extracts were dried (Na2SO4) and the solvent removed to yield a yellow oil. The oil was treated with methanol (30 ml) and heated to reflux for 1 h. Upon cooling, the solution was evaporated to near dryness, and the residue chromatographed on a silica column, eluting with 0-10% ethyl acetate in petroleum ether. The purified product was obtained as an white powder (0.76 g)

reactant | 2′-hydroxy-5′-methylacetophenone | 6.7 mmol, 1.0 g | OC1=C(C=C(C=C1)C)C(C)=O | C9H10O2
reactant | paraformaldehyde | 0.18 g | C=O | CH2O
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | methanol | 30 ml | CO | CH4O
product | 2′-hydroxy-5′-methyl-3′-methoxymethylacetophenone | 0.76 g | OC1=C(C=C(C=C1COC)C)C(C)=O | C11H14O3
